US07947689B2
(6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(4-trifluoromethyl-6,7-dihydro-4H-thieno[3,2-c]pyridin-5-yl)-methanone
In close analogy to the procedure described in Example 1, 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 4-trifluoromethyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine to provide the title compound in moderate yield.

reactant | 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | 4-trifluoromethyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine | FC(C1NCCC2=C1C=CS2)(F)F | C8H8F3NS
product | (6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(4-trifluoromethyl-6,7-dihydro-4H-thieno[3,2-c]pyridin-5-yl)-methanone | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C1=C(CC2)SC=C1)C(F)(F)F | C15H10BrF3N4OS
